US08492588B2
[4-(4-Fluoro-benzyloxy)-phenyl]carbamic acid ethyl ester
4-(4-Fluoro-benzyloxy)-aniline (0.22 g, 1 mmol) was dissolved in 8 ml of anhydrous ethanol and diethyl pyrocarbonate (0.20 g, 1.2 mmol) was added dropwise at room temperature. The resulting mixture was stirred at room temperature for 4 hours, then stored at −20° C. overnight. The crystals was filtered and washed with cold ethanol to give pure product as crystal solids (88 mg, 30%). The filtrate was concentrated to dryness under reduced pressure and the residue was purified by silica gel column to give another batch of pure products. 1H NMR (DMSO-d6, 300 MHz): δ9.38 (brs, 1H, exchangeable with D2O, NH), 7.46 (dd, J=5.7 and 8.1 Hz, 2H), 7.32 (d, J=8.7 Hz, 2H), 7.18 (t, J=8.7 Hz, 2H), 6.90 (d, J=8.7 Hz, 2H), 5.00 (s, 2H), 4.07 (q, J=7.2 Hz, 2H), 1.20 (t, J=7.2 Hz, 3H). MS: 288 (M−1).

reactant | 4-(4-Fluoro-benzyloxy)-aniline | 1 mmol, 0.22 g | FC1=CC=C(COC2=CC=C(N)C=C2)C=C1 | C13H12FNO
reactant | diethyl pyrocarbonate | 1.2 mmol, 0.20 g | C(OCC)(=O)OC(=O)OCC | C6H10O5
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | [4-(4-Fluoro-benzyloxy)-phenyl]carbamic acid ethyl ester | 88 mg, 30% | C(C)OC(NC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C16H16FNO3
